US07115645B2
a) 3-(4-Methoxyphenyl)amino-4-nitrophenol
0.16 g of 3-fluoro-4-nitrophenol and 0.37 g of p-anisidine were mixed and stirred for 1.5 hours at 150° C. After cooling, it was dissolved in dichloromethane, and extracted twice with 1N aqueous hydrochloric acid and once with saturated sodium chloride solution. The organic phase was dried on sodium sulfate and concentrated by evaporation in a vacuum.

reactant | 3-fluoro-4-nitrophenol | 0.16 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | p-anisidine | 0.37 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4-Methoxyphenyl)amino-4-nitrophenol | COC1=CC=C(C=C1)NC=1C=C(C=CC1[N+](=O)[O-])O | C13H12N2O4
